US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-dimethylcarbamoylmethoxy-carbonylmethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
48 mg (0.15 mmol) TBTU, 21 μL (0.15 mmol) triethylamine and 15 mg (0.15 mmol) 2-hydroxy-N,N-dimethyl-acetamide were added to a solution of 100 mg (0.13 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 1 mL DMF and the reaction mixture was stirred overnight at RT. The reaction solution was filtered through a syringe filter and the crude product was purified by HPLC. The fractions containing the product were combined and evaporated down i. vac.

reactant | TBTU | 0.15 mmol, 48 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.15 mmol, 21 μL | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-N,N-dimethyl-acetamide | 0.15 mmol, 15 mg | OCC(=O)N(C)C | C4H9NO2
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.13 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C37H46ClF3N6O6
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-dimethylcarbamoylmethoxy-carbonylmethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1C(CC(CC1)C1CCN(CC1)OCC(N(C)C)=O)C=C=O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C41H51ClF3N7O7
